datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.C[C:65]1=[CH:64][CH:63]=[C:62]([CH:11]=[CH2:10])[CH:73]=[CH:75]1>>C[C:65]1=[CH:64][CH:63]=[C:62]([CH+:11][CH2:10][CH:20]([CH:21]=[CH:22][N:23]2CCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:73]=[CH:75]1 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.C[C:11](=[CH2:10])[O:12][Si:63](C)(C)C>>CC1=CC=C([S:32]([N-:21][CH:20]([CH2:10][C:11](C)=[O+:12][Si:63](C)(C)C)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)[O-:12].Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1>>CC[O:61][C:11]([C:10]([Cl:20])([C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)=[O:12].Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.ClC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>ClC1=CC=C([S:61]([CH:10](Cl)[C:20]([N-:21]C2=CC=CC=C2)=[N:31]C2=CC=CC=C2)(=[O:62])=[O:72])C=C1 10=20;20,21=21"
"C[C:72]1=[CH:71][N-:10][C:61](=[O:62])[NH:84][C:73]1=[O:74].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:34]([N+](=O)[O-])=[CH:33]1>>C[C:72]1=[CH:71][N:10]([CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[CH:33]=[C:34]2[N+](=O)[O-])[C:61](=[O:62])[NH:84][C:73]1=[O:74] 10=20;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N:63]2[C:62]([C:81]([C-:10](C)C3=CC=CC=C3)=[O:82])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1.C[N:21](C1=CC=CC=C1)[S:20]C(F)(F)F>>CC1=CC(C)=C([N:63]2[C:62]([C:81]([C:10](C)(C3=CC=CC=C3)[S:20]C(F)(F)F)=[O:82])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1.C[N-:21]C1=CC=CC=C1 10=20;20,21=21"
CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1.[N-]=[N+]=NC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([NH+:10]2CCC[C@H]2C(N=[N+]=[N-])(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10=20
"CO[C-:10]([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[S:81](C1=CC=CC=C1)(=[O:82])=[O:92].C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CO[C:10]([CH:20]([N:21](C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[S:81](C1=CC=CC=C1)(=[O:82])=[O:92] 10=20;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)[O-:12]>>CC[O:61][C:11]([C:10]([CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)([C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
C1=CC=C(CC2CCC[NH:10]2)C=C1.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([NH+:10]2CCCC2CC2=CC=CC=C2)([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10=20
C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.CC[O:82][C:71]([C-:10]1CCCC[C:62]1=[O:61])=[O:72]>>CC[O:82][C:71]([C:10]1([CH:20]([C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[C:41]23C4C5C6C2[Fe:42]56432789C3C2C7C8C39)CCCC[C:62]1=[O:61])=[O:72] 10=20
"C1CCC[C:20](=[O:21])CC1.CC1(C)C[C:71](=[O:72])[C:10](=[I:11]C2=CC=CC=C2)[C:91](=[O:92])C1>>CC1(C)C[C:71](=[O:72])[C:10]([I+:11]C2=CC=CC=C2)([C:20]2([O-:21])CCCCCC2)[C:91](=[O:92])C1 10,11=10,20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[C:74](Cl)[CH:83]=[CH:82]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[Sn:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[C:74](Cl)[CH:83]=[CH:82]1 10,11=10,20"
"CC[O:72][C:61]([C-:10]([C:81](=[O:82])[O:92]CC)[C:101](C)=[O:102])=[O:62].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1>>CC[O:72][C:61]([C:10]([CH:20]([C:21](C[N+]12CCN(CC1)CC2)=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:81](=[O:82])[O:92]CC)[C:101](C)=[O:102])=[O:62] 10=20;20,21=21,22;22,23=23"
